Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[C:10][O:11][H:12].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10][O:11][H:12],-1.85143264621
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[O:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9],5.413160073709999
[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-3.84952074883
[H:4].[O:1]=[C:2]([O:3])[C:5]([H:6])([H:7])[H:8]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[H:8],-4.85193552311
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[C:8][O:9][H:10].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7],0.946874855468
[C:3]([H:4])([H:5])[C:6]([O:7][H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-5.43262295775
[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([O:4][H:5])(=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2],2.81665615167
[H:10].[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[O:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14],-4.55786448095
[H:1][C:2]#[C:3]/[C:5]([O:6][H:7])=[C:8](\[H:9])[O:10][H:11].[H:4]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([O:6][H:7])=[C:8](\[H:9])[O:10][H:11],-1.98391351481
[C:3]([H:4])#[C:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.92761253607
[H:12].[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.57997715383
[C:5]([H:6])([H:7])=[C:8][H:9].[O:1][C:2]#[C:3][O:4]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8][H:9],-0.193917650409
[H:10].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])/[C:7]([H:8])=[C:9]/[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.829133473450001
[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2].[O:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],2.93916444275
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]=[C:8]([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:7]>>[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-4.8162612431300005
[H:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])([H:4])[O:5][O:6][C@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],4.62428638865
[H:9].[O:1]=[C:2]([C:3]([O:4][H:5])=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.47727299675
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8].[H:9],4.57482564802
[O:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1][C:2][C:3],6.93841223146
[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([O:7][H:8])=[C:9]([H:10])[H:11]>>[C:1]=[C:2]([O:3][H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11],-0.186141884889
[H:1][O:2][C:3]#[C:4][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][C:5]([O:7][H:8])=[C:9]([H:10])[H:11].[H:6],1.27939660655
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16].[H:1][O:2],5.394656881919999
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:3]([H:4])(=[C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2],2.67885069824
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])[H:5],4.18601054355
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]1[O:8][C@@:9]1([H:10])[C:11]([H:12])([H:13])[H:14],-1.66537339676
[H:1][C:2]([H:3])/[C:4](=[C:5](/[H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]([H:3])/[C:4](=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],3.1696419222400003
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13].[H:14],5.0474127634
[H:1][O:2][C:3]([C:4][O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9],5.04771660458
